US07851473B2
N-[3-(Hydroxymethyl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
Under a nitrogen gas stream, to a solution of methyl 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)benzoate (300 mg, 0.710 mmol) in tetrahydrofuran (7.0 ml) was added, under ice-cooling, a 1.5 M solution of diisobutylaluminum hydride in toluene (4.7 ml, 7.10 mmol), and the mixture was stirred at room temperature for 2 hours. An aqueous saturated ammonium chloride solution was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 42 mg (15.0%) of the desired product as a solid.

reactant | methyl 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)benzoate | 0.710 mmol, 300 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=C(C(=O)OC)C=CC1 | C21H21N5O3S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 7.10 mmol, 4.7 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
product | N-[3-(Hydroxymethyl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 42 mg, 15.0% | OCC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C20H21N5O2S
